US09428470B2
A) (E)-1-(3-(Benzyloxy)-5-bromophenyl)-N-hydroxymethanimine
A mixture of 3-(benzyloxy)-5-bromobenzaldehyde (5.05 g), hydroxyl ammonium chloride (1.326 g), sodium bicarbonate (1.603 g), and ethanol (50 mL) was stirred overnight at room temperature. To the reaction mixture, water and brine were added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (1.48 g).

reactant | 3-(benzyloxy)-5-bromobenzaldehyde | 5.05 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1)Br | C14H11BrO2
reactant | hydroxyl ammonium chloride | 1.326 g | [Cl-].O[NH3+]
reactant | sodium bicarbonate | 1.603 g | C([O-])(O)=O.[Na+]
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
product | (E)-1-(3-(Benzyloxy)-5-bromophenyl)-N-hydroxymethanimine | 1.48 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)Br)\C=N\O | C14H12BrNO2
